US08198448B2
(R)-6-(1-(8-fluoro-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one 6-(1-(8-fluoro-6-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one (0.5 g, 1.0 mmol) was dissolved in EtOH (12 mL) and to the solution was added hydrochloric acid (2.0 mL, 4.0 mmol). The reaction was stirred at rt for 3 hours at which time it was diluted with 5 mL of water and 10 mL of aq. saturated sodium bicarbonate solution. The product was extracted with DCM (30 mL) three times. The organic layers were combined, dried over sodium sulfate and concentrated to dryness to afford 6-(1-(8-fluoro-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one (0.4 g, 96%). Chiral separation by preparative SFC (Chiralpak® AD-H (20×150 m, 5 □m), 35% EtOH, 65% CO2, 0.2 DEA; 100 bar system pressure, 50 mL/min; tr: 4.4 min). On the basis of previous crystallographic data and potency recorded for related compound in the same program, the absolute stereochemistry has been assigned to be the R enantiomer. M/Z=420.2 [M+H], calc 419.15 for C21H18FN7O2. 1H NMR (400 MHz, CHLOROFORM-d) □ ppm 2.17 (d, J=7.14 Hz, 3 H) 4.00-4.09 (m, 2 H) 4.29-4.33 (m, 2 H) 6.91 (d, J=7.92 Hz, 1 H) 7.04 (dd, 1 H) 7.10 (dd, J=10.56, 1.17 Hz, 1 H) 7.51 (dd, J=8.17, 4.74 Hz, 1 H) 7.59 (d, J=7.82 Hz, 1 H) 7.72 (d, J=0.68 Hz, 1 H) 7.76 (d, J=0.78 Hz, 1 H) 8.34 (d, J=1.17 Hz, 1 H) 8.84 (dd, J=8.07, 1.22 Hz, 1 H) 8.92 (dd, J=4.74, 1.81 Hz, 1 H)

reactant | (R)-6-(1-(8-fluoro-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one 6-(1-(8-fluoro-6-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one | 1.0 mmol, 0.5 g | FC=1C=2N(C=C(C1)C=1C=NN(C1)CCOC1OCCCC1)C(=NN2)C(C)N2C(C=1C=CC=NC1C=C2)=O.FC=2C=1N(C=C(C2)C=2C=NN(C2)CCO)C(=NN1)[C@@H](C)N1C(C=2C=CC=NC2C=C1)=O
reactant | hydrochloric acid | 4.0 mmol, 2.0 mL | Cl | ClH
solvent | EtOH | 12 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | 6-(1-(8-fluoro-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one | 0.4 g, 96% | FC=1C=2N(C=C(C1)C=1C=NN(C1)CCO)C(=NN2)C(C)N2C(C=1C=CC=NC1C=C2)=O | C21H18FN7O2
